US07816542B2
4′-Butyl-3-nitro-biphenyl-4-ylamine (117 mg, 3.70 mmol) and 10% Pd/C (10 mg) in 2:1 v/v MeOH/EtOAc (4 ml) is treated to a steady bubbling of H2 (g) for 15 minutes. The reaction is kept under 1 atm of H2 for 1 hour with stirring. The reaction is filtered through Celite and the filtrate concentrated in vacuo to afford 4′-butyl-biphenyl-3,4-diamine: ESMS m/z 241.2 (M+H+).

reactant | 4′-Butyl-3-nitro-biphenyl-4-ylamine | 3.70 mmol, 117 mg | C(CCC)C1=CC=C(C=C1)C1=CC(=C(C=C1)N)[N+](=O)[O-] | C16H18N2O2
catalyst | Pd/C | 10 mg | [Pd] | Pd
solvent | MeOH EtOAc | 4 ml | CO.CCOC(=O)C
product | 4′-butyl-biphenyl-3,4-diamine | C(CCC)C1=CC=C(C=C1)C1=CC(=C(C=C1)N)N | C16H20N2
